US08530468B2
2,2-Diethoxy-N-(2-fluorobenzyl)acetamide
2-Fluorobenzylamine (2.00 g, 16.0 mmol), sodium 2,2-diethoxyacetate (3.26 g, 19.2 mmol), N-hydroxybenzotriazole hydrate (3.67 g, 24.0 mmol) and diisopropylethylamine (4.18 mL, 24.0 mmol) were stirred in DMF (20 mL) at room temperature. 1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (4.6 g, 24.0 mmol) was added and the reaction mixture was allowed to stir at room temperature overnight. The reaction mixture was diluted water and ethyl acetate. The organic phase was washed sequentially with HCl (aq) (1 M), saturated sodium bicarbonate, water and brine, dried over sodium sulfate and concentrated to dryness. The crude material was used directly in the following reaction.

reactant | 2-Fluorobenzylamine | 16.0 mmol, 2.00 g | FC1=C(CN)C=CC=C1 | C7H8FN
reactant | sodium 2,2-diethoxyacetate | 19.2 mmol, 3.26 g | C(C)OC(C(=O)[O-])OCC.[Na+]
reactant | N-hydroxybenzotriazole hydrate | 24.0 mmol, 3.67 g | O.ON1N=NC2=C1C=CC=C2
reactant | diisopropylethylamine | 24.0 mmol, 4.18 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 24.0 mmol, 4.6 g | Cl.C(C)N=C=NCCCN(C)C
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2,2-Diethoxy-N-(2-fluorobenzyl)acetamide | C(C)OC(C(=O)NCC1=C(C=CC=C1)F)OCC | C13H18FNO3
